US05756747
2,4-dichloro-3-nitroquinoline (5.3 g, 0.218 mol) was combined with 75 mL of 15 percent ammonia in methanol and the mixture was heated at about 45° C. for about 4 hours. The reaction mixture was cooled to room temperature, and the precipitated product was removed by filtration. The volume of methanol was reduced to about 35 mL, and the precipitated product was removed by filtration. The volume of methanol was then reduced to about 10 mL and the precipitated product was again removed by filtration. The combined solids were stirred in aqueous sodium bicarbonate, filtered, and dried to afford a solid product 4-amino-2-chloro-3-nitroquinoline.

reactant | 2,4-dichloro-3-nitroquinoline | 0.218 mol, 5.3 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | ammonia | 75 mL | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-2-chloro-3-nitroquinoline | NC1=C(C(=NC2=CC=CC=C12)Cl)[N+](=O)[O-] | C9H6ClN3O2
